US08686147B2
1b) Ethyl 4-(2-nitrophenyl)-1H-pyrrole-3-carboxylate
A solution of ethyl 3-(2-nitrophenyl)propanoate (120 mmol; 26.6 g) and 4-toluenesulfonylmethyl isocyanate (TosMIC) (130 mmol; 25.4 g) in a mixture of dimethyl sulfoxide and anhydrous ethyl ether (150 and 300 ml) was added dropwise to a suspension of 60% sodium hydride in paraffin (260 mmol; 10.4 g) in anhydrous ethyl ether (300 ml), under a stream of argon. After the addition, the mixture was stirred at room temperature for 25 minutes, water (500 ml) was then added and the resulting solution was extracted with ethyl acetate (3×600 ml). The combined organic phases were washed with saturated NaCl solution (3×300 ml), dried over anhydrous sodium sulfate and evaporated under reduced pressure. The crude product obtained was purified on a column of alumina (eluting with a 1/1 chloroform/ethyl acetate mixture) to give 12.8 g (41%) of final product having the following characteristics:

reactant | ethyl 3-(2-nitrophenyl)propanoate | 120 mmol, 26.6 g | [N+](=O)([O-])C1=C(C=CC=C1)CCC(=O)OCC | C11H13NO4
reactant | 4-toluenesulfonylmethyl isocyanate | 130 mmol, 25.4 g | C1(=CC=C(C=C1)S(=O)(=O)CN=C=O)C | C9H9NO3S
reactant | sodium hydride | [H-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | dimethyl sulfoxide | CS(=O)C | C2H6OS
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
solvent | ethyl ether | 300 ml | C(C)OCC | C4H10O
product | Ethyl 4-(2-nitrophenyl)-1H-pyrrole-3-carboxylate | 12.8 g, 41% | [N+](=O)([O-])C1=C(C=CC=C1)C=1C(=CNC1)C(=O)OCC | C13H12N2O4
